US06075029
Synthesis of (R)-1-(5-Hydroxyhexyl)-3,8-dimethylxanthine (CT2408R)
A solution of (R)-7-benzyl-1-(5-hydroxyhexyl)-3,8-dimethylxanthine (250 mg) in a mixture of acetic acid (10 ml) and ethyl acetate (10 ml) was hydrogenated in presence of palladium on carbon (50 mg) for 12 hours. The mixture was filtered through celite (5 g) and concentrated. The residue was dissolved in ethyl acetate (100 ml), washed with saturated sodium bicarbonate solution (50 ml), dried over magnesium sulfate and concentrated. The product was purified by flash chromatography (silica gel) eluting with 10% methanol/ethyl acetate. Yield=180 mg.

reactant | (R)-7-benzyl-1-(5-hydroxyhexyl)-3,8-dimethylxanthine | 250 mg | C(C1=CC=CC=C1)N1C(=NC=2N(C(N(C(C12)=O)CCCC[C@@H](C)O)=O)C)C | C20H26N4O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | (R)-1-(5-Hydroxyhexyl)-3,8-dimethylxanthine | O[C@@H](CCCCN1C(=O)N(C=2N=C(NC2C1=O)C)C)C | C13H20N4O3
